US07465825B2
A solution of dibenzofuran-4-yl-boronic acid (20.0 g, 94.3 mmol), (4-bromo-phenyl)-trimethyl-silane (21.62 g, 94.3 mmol), K2CO3 (39.1 g, 3 equiv., 283 mmol) in toluene (100 mL), ethanol (60 mL) and water (30 mL) was purged with nitrogen for 5 min (bubbled into solution) and treated with Pd(PPh3)4 (3.59 g, 2.9 mmol). After heating to 80° C. for 4 h, the solution was cooled to room temperature, poured into water (300 mL) and extracted with ethyl acetate (300 mL). The organic phase was washed with sat'd aq NaCl, dried over anhydrous MgSO4, filtered and concentrated in vacuo. Purification by flash column chromatography (5-20% ethyl acetate in heptane) afforded (4-dibenzofuran-4-yl-phenyl)-trimethyl-silane as a colorless oil (28.9 g, 96%).

reactant | dibenzofuran-4-yl-boronic acid | 94.3 mmol, 20.0 g | C1=CC=C(C=2OC3=C(C21)C=CC=C3)B(O)O | C12H9BO3
reactant | (4-bromo-phenyl)-trimethyl-silane | 94.3 mmol, 21.62 g | BrC1=CC=C(C=C1)[Si](C)(C)C | C9H13BrSi
reactant | K2CO3 | 283 mmol, 39.1 g, 3 equiv. | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 60 mL | C(C)O | C2H6O
solvent | water | 30 mL | O | H2O
catalyst | Pd(PPh3)4 | 2.9 mmol, 3.59 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 300 mL | O | H2O
product | (4-dibenzofuran-4-yl-phenyl)-trimethyl-silane | 28.9 g, 96% | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C3=CC=C(C=C3)[Si](C)(C)C | C21H20OSi
